US03951988
Upon boiling a solution of 8.3 g of 3-nitrobenzylideneacetoacetic acid methyl ester and 5.6 g of 2-carbethoxymethylidenepyrrolidine in 50 ml of glacial acetic acid for 8 hours, 5-methyl-7-(3-nitrophenyl)-1,2,3,7-tetrahydroindolizine-6,8-dicarboxylic acid 6-methyl ester 8-ethyl ester of melting point 120° (ethanol) is obtained.

reactant | 3-nitrobenzylideneacetoacetic acid methyl ester | 8.3 g | COC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 2-carbethoxymethylidenepyrrolidine | 5.6 g | C(=O)(OCC)C=C1NCCC1 | C8H13NO2
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-7-(3-nitrophenyl)-1,2,3,7-tetrahydroindolizine-6,8-dicarboxylic acid 6-methyl ester 8-ethyl ester | Yield: 73% | C(C)OC(=O)C=1C(C(=C(N2CCCC12)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C20H22N2O6
